US08754079B2
42.2 4-[4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
7 ml sodium hydroxide solution (2M) were added to a mixture of 1.270 g 4-[4-fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (cpd. 42.1) in 10 ml MeOH/THF (1:1). The reaction mixture was stirred at reflux for 15 minutes, then cooled and acidified with 2 M aq. HCl. The solvent was removed in vacuo, the residue suspended in water, filtered and dried.

reactant | sodium hydroxide | 2M, 7 ml | [OH-].[Na+]
reactant | 4-[4-fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 1.270 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2[C@H](CCCC2)OC)S1)C | C22H24FN3O4S
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH THF | 10 ml | CO.C1CCOC1
product | 4-[4-Fluoro-2-((1S,2S)-2-methoxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2[C@H](CCCC2)OC | C21H22FN3O4S
